US07514437B2
To a solution of (2R)-[(tert-butoxycarbonyl)amino](2,3dihydro-1H-inden-2-yl)ethanoic acid (291 mg) in dry tetrahydrofuran (5ml) under a nitrogen atmosphere at −20° C. was added N-methylmorpholine (101 mg) and a solution of isopropylchloroformate in toluene (1.0M, 1 ml). After 10 minutes, a solution of N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucine (342 mg) in N,N-dimethylformamide/tetrahydrofuran (5 ml/10 ml) was added and the resultant mixture was stirred at room temperature for 4 hours. The solvent was then removed in vacuo and the residue was treated with 4N hydrochloric acid in dioxane (2 ml). After 4 hours, methanol (5 ml) was added to the reaction mixture and this was left to stand for 18 hours. The solvent was then removed in vacuo and the residue was purified on an SPE cartridge (50 g, silica) eluting with cyclohexane/ethyl acetate (gradient from 4:1 to neat ethyl acetate), which furnished the two diastereomers as white solids (2R)-2-(2,4-difluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-isopropylethanamide; (0.137 g)

reactant | (2R)-[(tert-butoxycarbonyl)amino](2,3dihydro-1H-inden-2-yl)ethanoic acid | 291 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1CC2=CC=CC=C2C1 | C16H21NO4
reactant | N-methylmorpholine | 101 mg | CN1CCOCC1 | C5H11NO
reactant | isopropylchloroformate | C(C)(C)OC(=O)Cl | C4H7ClO2
reactant | N-[(1R)-1-(2,4-difluorophenyl)-2-(isopropylamino)-2-oxoethyl]-L-leucine | 342 mg | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC(C)C)N[C@@H](CC(C)C)C(=O)O | C17H24F2N2O3
solvent | tetrahydrofuran | 5ml | O1CCCC1 | C4H8O
solvent | toluene | 1.0M, 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide tetrahydrofuran | 5 ml | CN(C=O)C.O1CCCC1
product | (2R)-2-(2,4-difluorophenyl)-2-[(3R,6R)-3-(2,3-dihydro-1H-inden-2-yl)-6-isobutyl-2,5-dioxopiperazin-1-yl]-N-isopropylethanamide | FC1=C(C=CC(=C1)F)[C@H](C(=O)NC(C)C)N1C([C@H](NC([C@H]1CC(C)C)=O)C1CC2=CC=CC=C2C1)=O | C28H33F2N3O3
